Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / naproxen / Percocet
 
Attending: ___
 
Chief Complaint:
recurrence of right breast invasive ductal carcinoma
 
Major Surgical or Invasive Procedure:
Right breast skin sparing mastectomy

 
History of Present Illness:
Ms ___ is a very pleasant ___-
old female with a past medical and past surgical history
significant for a diagnosis of right breast invasive
carcinoma diagnosed in ___ for which she underwent a
lumpectomy with axillary lymph node dissection followed by
adjuvant radiation therapy and tamoxifen/aromatase inhibitor
for ___ years.  Recently, she was noted to have new skin
thickening and retraction in the superior periareolar
location of the right breast with a developing asymmetry on
mammography.  Ultrasound was performed confirming the finding
of a mass at this site.  Image-guided core biopsy was
performed showing this to be invasive ductal carcinoma with
mucinous features, grade 2, ER weakly positive at 1% to 5%,
PR negative, HER-2 negative.  We discussed options for
management.  We discussed standard of care.  Patient wished
to proceed with a mastectomy given that she had already had
breast conservation therapy.  Also, however, a wide local
excision alone protocol was discussed, but not favored.  We
discussed her case at multidisciplinary tumor board and the
recommendation was for a mastectomy given the receptor status
of the tumor and concern for local recurrence if only a wide
local excision was performed.  A sentinel node biopsy was not
recommended given that this would not influence her adjuvant
therapy recommendations.  Thus, we discussed the procedure of
right total mastectomy.  Ms ___ did consider
reconstruction and met with Dr. ___ in Plastic ___, but
then decided against it ultimately.  Thus, we discussed the
procedure of right total mastectomy.  Risks, benefits, and
alternatives of the aforementioned plan were discussed with
Ms ___ and ___ daughter.  They voiced understanding and
wished proceed.  She signed informed consent for the surgical
procedure.

 
Past Medical History:
PMH: Right Breast Invasive Ductal Carcinoma s/p partial 
lumpectomy with ALN Dissection s/p adjuvant radiation therapy

PSH: Right breast lumpectomy with axillary lymph node dissection
in ___, Left Cheek bx, Cataract sx, Left Leg Biopsy NOS
 
Social History:
___
Family History:
-
 
Physical Exam:
On exam, she is alert, oriented, in no apparent distress, fully
ambulatory, fully conversant.  She has a weight of 120 pounds. 
She is ___ feet tall.  She has near grade III ptosis on both sides
and notch to nipple distance of 24 cm on the left side, notch to
nipple distance of 21 cm on the right side.  She has a base
diameter of 14 cm on both sides and radiation changes have
decreased over time on the right side.  Cranial nerve 
examination
is otherwise intact.

 
Brief Hospital Course:
Ms. ___ was admitted to our service on ___ in 
anticipation for her right skin sparing mastectomy. Please refer 
to her operation report for more details regarding the 
procedure. She tolerated the procedure well and was admitted for 
observation for 1 day. On POD1, she was discharged home with 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FiberCon (calcium polycarbophil) 625 mg oral DAILY 
2. Caltrate + D3 Plus Minerals (Ca carb-D3-mag ___ 
300 mg-800 unit -25 mg-0.5 mg oral DAILY 
3. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID:PRN In case of pain Duration: 
10 Days 
Please do not take more than 4g in a day 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 1 
tablet(s) by mouth TID:PRN Disp #*21 Tablet Refills:*0 
2.  TraMADol 25 mg PO Q6H:PRN pain Duration: 3 Days 
RX *tramadol 50 mg 1 tablet(s) by mouth Q8H:PRN Disp #*5 Tablet 
Refills:*0 
3.  Caltrate + D3 Plus Minerals (Ca carb-D3-mag ___ 
300 mg-800 unit -25 mg-0.5 mg oral DAILY  
4.  FiberCon (calcium polycarbophil) 625 mg oral DAILY  
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right Breast Intraductal Carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

It was a pleasure to have you at our service at the ___ 
___. Please carefully read below for your 
instructions after your discharge:

Personal Care:  
 1. You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily. 

2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
 3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
 4. A written record of the daily output from each drain should 
be brought to every ___ appointment. your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
 5. You may wear a surgical bra or soft, loose camisole for 
comfort.  
 6. You may shower daily with assistance as needed. Be sure to 
secure your drains so they don't hang down loosely and pull out. 


7. The Dermabond skin glue will begin to flake off in about ___ 
days.  

Activity:  
 1. You may resume your regular diet.  
 2. Walk several times a day.  
 3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 
 
Medications:  
 1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
 2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
 3. Take prescription pain medications for pain not relieved by 
Tylenol.  
 4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
 5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  

 Call the office IMMEDIATELY if you have any of the following:  
 1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
 2. A large amount of bleeding from the incision(s) or drain(s). 
 
 3. Fever greater than 101.5 oF  
 4. Severe pain NOT relieved by your medication.  
   
 Return to the ER if:  
 * If you are vomiting and cannot keep in fluids or your 
medications.  
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
 * Any serious change in your symptoms, or any new symptoms that 
concern you.  

 DRAIN DISCHARGE INSTRUCTIONS  
 You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.  
 Please assist patient with drain care. A daily log of 
individual drain outputs should be maintained and brought with 
patient to follow up appointment with your surgeon.
 
Followup Instructions:
___